US08022222B2
Step B: Preparation of ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate:
Following the method of Example 3, Step B, ethyl 4-chloro-3-(2-chloropyridin-4-yloxy)benzoate (1.64 g, 5.26 mmol), 4-methylthiazol-2-amine (0.60 g, 5.26 mmol), potassium phosphate (1.23 g, 5.78 mmol), tris(dibenzylideneacetone)dipalladium (0) (0.241 g, 0.263 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.228 g, 0.394 mmol), water (4 mL) and toluene (13 mL) were combined to give the desired product (1.84 g, 89.8% yield) as a yellow solid.

reactant | ethyl 4-chloro-3-(2-chloropyridin-4-yloxy)benzoate | 5.26 mmol, 1.64 g | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)Cl | C14H11Cl2NO3
reactant | 4-methylthiazol-2-amine | 5.26 mmol, 0.60 g | CC=1N=C(SC1)N | C4H6N2S
reactant | potassium phosphate | 5.78 mmol, 1.23 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 4 mL | O | H2O
catalyst | tris(dibenzylideneacetone)dipalladium | 0.263 mmol, 0.241 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.394 mmol, 0.228 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-chloro-3-(2-(4-methylthiazol-2-ylamino)pyridin-4-yloxy)benzoate | 1.84 g, 89.8% yield | ClC1=C(C=C(C(=O)OCC)C=C1)OC1=CC(=NC=C1)NC=1SC=C(N1)C | C18H16ClN3O3S
